US07314886B2
1.F. Synthesis of 2-(1,8-Diethyl-6-phenyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol
To a solution of 2-(6-bromo-1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol (3.8 g, 10.8 mmol) in ethylene glycol dimethyl ether (50 mL) was added potassium phosphate (6.37 g, 30 mmol), phenylboronic acid (1.83 g, 15 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane. The reaction mixture was heated at 90° C. (oil bath) overnight. It was quenched with water and extracted with ethyl acetate. Extracts were dried over magnesium sulfate and concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel, 50% ethyl acetate/hexane, followed by Sephadex LH-20, 50% chloroform/hexane) to give the title compound (0.75 g, 20% yield). 1H NMR (CDCl3) δ 7.77 (s, 1H), 7.66 (d, 1H), 7.63 (m, 1H), 7.56 (d, 1H), 7.44 (m, 3H), 7.32 (m, 1H), 4.06 (m, 2H), 3.72 (m, 3H), 2.91 (m, 3H), 2.81 (dt, 1H), 2.65 (dd, 1H), 2.20 (m, 1H), 2.07 (m, 2H), 1.40 (t, 3H), 0.95 (t, 3H). ES-MS (m/z) 348 [M−1]−.

reactant | 2-(6-bromo-1,8-diethyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol | 10.8 mmol, 3.8 g | BrC=1C=C2C3=C(NC2=C(C1)CC)C(OCC3)(CC)CCO | C17H22BrNO2
reactant | potassium phosphate | 30 mmol, 6.37 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | phenylboronic acid | 15 mmol, 1.83 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethylene glycol dimethyl ether | 50 mL | COCCOC | C4H10O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1,8-Diethyl-6-phenyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol | 0.75 g, 20% yield | C(C)C1(OCCC2=C1NC1=C(C=C(C=C21)C2=CC=CC=C2)CC)CCO | C23H27NO2
